US06867207B2
α-(4-chlorophenyl)-4-pyridinemethanol (0.0512 mol), N-(3,5-dichlorophenyl)-acetamide (0.102 mol) and polyphosphoric acid (210 g) were stirred at 140° C. for 90 minutes. The mixture was cooled to 100° C., poured out into ice water, basified with NH4OH and extracted with CH2Cl2. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was taken up in 2-propanone and diethyl ether. The precipitate was filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH/NH4OH 97.5/2.5/0.1). The pure fraction was collected and the solvent was evaporated, yielding 17.94 g (87%) of (±)-N-[3,5-dichloro-4-[(4-chlorophenyl)-4-pyridinylmethyl]phenyl]-acetamide (interm. 28).

reactant | α-(4-chlorophenyl)-4-pyridinemethanol | 0.0512 mol | ClC1=CC=C(C=C1)C(O)C1=CC=NC=C1 | C12H10ClNO
reactant | N-(3,5-dichlorophenyl)-acetamide | 0.102 mol | ClC=1C=C(C=C(C1)Cl)NC(C)=O | C8H7Cl2NO
reactant | NH4OH | [NH4+].[OH-]
product | (±)-N-[3,5-dichloro-4-[(4-chlorophenyl)-4-pyridinylmethyl]phenyl]-acetamide | 17.94 g, 87% | ClC=1C=C(C=C(C1C(C1=CC=NC=C1)C1=CC=C(C=C1)Cl)Cl)NC(C)=O | C20H15Cl3N2O
